US05001238
Step (1) Preparation of 3-Methoxybenzyl Bromide
To cooled (15° to 20° C.) hydrobromic acid (3.22 kg) (48%) is added 3-methoxybenzyl alcohol (1 kg) dropwise over a period of 1 hour. A slight exotherm results with pot temperature rising from 20° to 23° C. After the addition, the reaction mixture was stirred at 23° to 27° C. for four days. The product separated as an oil during this period. The reaction mixture was transferred to a separatory funnel, and the lower layer containing the product was separated. The aqueous phase was extracted with methylene chloride (750 mL). The methylene chloride extract was combined with the main product and washed with water (500 mL×3). The pH of the last wash was 6.5 to 7.0. The product was dried over anhydrous sodium sulfate (200 g), filtered and concentrated under reduced pressure (bath temperature 50° to 55° C.) to remove most of the solvent, then further concentrated at 40° to 45° C. under 5 mm Hg to constant weight to yield 1.30 kg (89% yield) of crude product. The presence of 5.5% of starting material in this product does not interfere with the subsequent alkylation reaction.

reactant | hydrobromic acid | 3.22 kg | Br | BrH
reactant | 3-methoxybenzyl alcohol | 1 kg | COC=1C=C(CO)C=CC1 | C8H10O2
product | 3-Methoxybenzyl Bromide | 1.30 kg, 89% yield | COC=1C=C(CBr)C=CC1 | C8H9BrO
